US08124629B2
Diisopropylethylamine (2.09 mL, 11.7 mmol) was added at 0° C. to a stirred solution of piperidine (0.40 g, 4.7 mmol) in tetrahydrofuran (10 mL) and the reaction mixture was stirred at room temperature for 15 minutes. A 0.1 M solution of 4-bromo-benzenesulfonyl chloride (1.20 g, 4.7 mmol) in tetrahydrofuran was added at room temperature and the reaction mixture was stirred at room temperature for 2 hours. The solvent was evaporated off under reduced pressure. The residue was diluted with ethyl acetate, and the inorganic salts were filtered through a celite bed. The filtrate was washed with 2 N aqueous HCl, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford 1-(4-bromobenzenesulfonyl)-piperidine, which was used in subsequent reactions without further purification. MS cald. for C11H14BrNO2S [M+] 304, obsd. 304.

reactant | Diisopropylethylamine | 11.7 mmol, 2.09 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | piperidine | 4.7 mmol, 0.40 g | N1CCCCC1 | C5H11N
reactant | 4-bromo-benzenesulfonyl chloride | 4.7 mmol, 1.20 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(4-bromobenzenesulfonyl)-piperidine | BrC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C11H14BrNO2S
